US04614813
Using the procedure of Example I, phenyl acetaldehyde oxime in chloroform is reacted with chlorine gas introduced at -5° to 0° C. To the resulting solution of 1-chlorophenyl acetaldehyde oxime is added dropwise with stirring a solution of potassium t-butoxide in t-butanol. The reaction is allowed to go to completion and any residual potassium t-butoxide is neutralized with hydrogen chloride gas. The precipitated potassium chloride is removed by filtration, and the filtrate concentrated under reduced pressure to provide the desired 1-(t-butoxy)-2-phenyl acetaldehyde oxime.

reactant | phenyl acetaldehyde oxime | C1(=CC=CC=C1)CC=NO | C8H9NO
reactant | chlorine | ClCl | Cl2
reactant | 1-chlorophenyl acetaldehyde oxime | ClC1(CC=CC=C1)CC=NO | C8H10ClNO
reactant | potassium t-butoxide | CC(C)([O-])C.[K+]
reactant | hydrogen chloride | Cl | ClH
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | t-butanol | C(C)(C)(C)O | C4H10O
product | 1-(t-butoxy)-2-phenyl acetaldehyde oxime | C(C)(C)(C)OC(CC1=CC=CC=C1)=NO | C12H17NO2
